US07754742B2
3-(tert-Butoxycarbonylamino-methyl)-benzoic acid methyl ester
Stir 3-aminomethyl-benzoic acid methyl ester hydrochloride (2.13 g, 10.6 mmol) in a mixture of dichloromethane (200 mL) and saturated aqueous sodium bicarbonate (100 mL). Add di-tert-butyl-dicarbonate (2.76 g, 12.7 mmol) and stir for 2 hrs. Separate the organic phase and dry over sodium sulfate. Filter and concentrate. Purify the residue by chromatography (silica get) eluting with 20-30% ethyl acetate/hexane to provide the title compound (2.8 g, 100%).

reactant | 3-aminomethyl-benzoic acid methyl ester hydrochloride | 10.6 mmol, 2.13 g | Cl.COC(C1=CC(=CC=C1)CN)=O
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl-dicarbonate | 12.7 mmol, 2.76 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-(tert-Butoxycarbonylamino-methyl)-benzoic acid methyl ester | 2.8 g, 100% | COC(C1=CC(=CC=C1)CNC(=O)OC(C)(C)C)=O | C14H19NO4
